* TLV9001 single operational amplifier
* Self-contained. No .include, no wrapper subcircuits.
* Generated from TI macromodel TLV9002 Rev. C (Copyright 2018 Texas Instruments).
* Internal helper subcircuits carry the suffix _T1 so this file can be loaded
* alongside the other TLV900x libraries without redefinition clashes.

.SUBCKT TLV9001 IN+ IN- VCC VEE OUT
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
  I_OS ESDn MID 3P
  I_B 33 MID 5P
  V_GRp 58 MID 180
  V_GRn 59 MID -180
  V_ISCp 52 MID 42
  V_ISCn 53 MID -42
  V_ORn 41 VCLP -1.22
  V11 57 40 0
  V_ORp 39 VCLP 1.22
  V12 56 38 0
  V4 29 OUT 0
  VCM_MIN 79 VEE_B -100M
  VCM_MAX 80 VCC_B 100M
  I_Q VCC VEE 60U
  V_OS 22 33 396.11U
  XVOS_VCM 21 22 VCC VEE VOS_SRC_0_T1
  C30 23 24 15.92U
  R85 24 MID R_NOISELESS 30K
  R84 24 23 R_NOISELESS 10K
  R83 23 MID R_NOISELESS 1
  GVCCS10 26 MID 25 MID -1
  C29 27 MID 19.89F
  R82 25 27 R_NOISELESS 10K
  R81 25 28 R_NOISELESS 70K
  R80 28 MID R_NOISELESS 1
  GVCCS9 28 MID 24 MID -3.8
  GVCCS4 23 MID CL_CLAMP 29 -87
  R79 30 MID R_NOISELESS 1
  XU1 31 MID MID 30 VCCS_LIM_ZO_0_T1
  R78 31 MID R_NOISELESS 101
  C22 31 26 15.92F
  R65 31 26 R_NOISELESS 10K
  R64 26 MID R_NOISELESS 1
  R63 29 30 R_NOISELESS 400K
  XCLAWn MID VIMON VEE_B 32 VCCS_LIM_CLAW-_0_T1
  Xe_n ESDp 33 VNSE_0_T1
  Xi_nn ESDn MID FEMT_0_0_T1
  Xi_np MID 33 FEMT_0_0_T1
  S5 VEE ESDp VEE ESDp S_VSWITCH_1
  S4 VEE ESDn VEE ESDn S_VSWITCH_2
  S2 ESDn VCC ESDn VCC S_VSWITCH_3
  S3 ESDp VCC ESDp VCC S_VSWITCH_4
  C28 34 MID 1P
  R77 35 34 R_NOISELESS 100
  C27 36 MID 1P
  R76 37 36 R_NOISELESS 100
  R75 MID 38 R_NOISELESS 1
  GVCCS8 38 MID 39 MID -1
  R74 40 MID R_NOISELESS 1
  GVCCS7 40 MID 41 MID -1
  C25 42 MID 25F
  R69 MID 42 R_NOISELESS 1MEG
  GVCCS6 42 MID VSENSE MID -1U
  C20 CLAMP MID 151.6N
  R68 MID CLAMP R_NOISELESS 1MEG
  XVCCS_LIM_2 43 MID MID CLAMP VCCS_LIM_2_0_T1
  R44 MID 43 R_NOISELESS 1MEG
  XVCCS_LIM_1 44 45 MID 43 VCCS_LIM_1_0_T1
  Rdummy MID 29 R_NOISELESS 40K
  R61 MID 46 R_NOISELESS 273.3609
  C16 46 47 1.1018N
  R58 47 46 R_NOISELESS 100MEG
  GVCCS2 47 MID VEE_B MID -258.98M
  R57 MID 47 R_NOISELESS 1
  R56 MID 48 R_NOISELESS 273.3609
  C15 48 49 1.1018N
  R55 49 48 R_NOISELESS 100MEG
  GVCCS1 49 MID VCC_B MID -258.98M
  R54 MID 49 R_NOISELESS 1
  R49 MID 50 R_NOISELESS 337.4K
  C14 50 51 591.7F
  R48 51 50 R_NOISELESS 100MEG
  G_adjust 51 MID ESDp MID -44.81M
  Rsrc MID 51 R_NOISELESS 1
  XIQPos VIMON MID MID VCC VCCS_LIMIT_IQ_0_T1
  XIQNeg MID VIMON VEE MID VCCS_LIMIT_IQ_0_T1
  C_DIFF ESDp ESDn 1P
  XCL_AMP 52 53 VIMON MID 54 55 CLAMP_AMP_LO_0_T1
  SOR_SWp CLAMP 56 CLAMP 56 S_VSWITCH_5
  SOR_SWn 57 CLAMP 57 CLAMP S_VSWITCH_6
  XGR_AMP 58 59 60 MID 61 62 CLAMP_AMP_HI_0_T1
  R39 58 MID R_NOISELESS 1T
  R37 59 MID R_NOISELESS 1T
  R42 VSENSE 60 R_NOISELESS 1M
  C19 60 MID 1F
  R38 61 MID R_NOISELESS 1
  R36 MID 62 R_NOISELESS 1
  R40 61 63 R_NOISELESS 1M
  R41 62 64 R_NOISELESS 1M
  C17 63 MID 1F
  C18 MID 64 1F
  XGR_SRC 63 64 CLAMP MID VCCS_LIM_GR_0_T1
  R21 54 MID R_NOISELESS 1
  R20 MID 55 R_NOISELESS 1
  R29 54 65 R_NOISELESS 1M
  R30 55 66 R_NOISELESS 1M
  C9 65 MID 1F
  C8 MID 66 1F
  XCL_SRC 65 66 CL_CLAMP MID VCCS_LIM_4_0_T1
  R22 52 MID R_NOISELESS 1T
  R19 MID 53 R_NOISELESS 1T
  XCLAWp VIMON MID 67 VCC_B VCCS_LIM_CLAW+_0_T1
  R12 67 VCC_B R_NOISELESS 1K
  R16 67 68 R_NOISELESS 1M
  R13 VEE_B 32 R_NOISELESS 1K
  R17 69 32 R_NOISELESS 1M
  C6 69 MID 1F
  C5 MID 68 1F
  G2 VCC_CLP MID 68 MID -1M
  R15 VCC_CLP MID R_NOISELESS 1K
  G3 VEE_CLP MID 69 MID -1M
  R14 MID VEE_CLP R_NOISELESS 1K
  XCLAW_AMP VCC_CLP VEE_CLP VOUT_S MID 70 71 CLAMP_AMP_LO_0_T1
  R26 VCC_CLP MID R_NOISELESS 1T
  R23 VEE_CLP MID R_NOISELESS 1T
  R25 70 MID R_NOISELESS 1
  R24 MID 71 R_NOISELESS 1
  R27 70 72 R_NOISELESS 1M
  R28 71 73 R_NOISELESS 1M
  C11 72 MID 1F
  C10 MID 73 1F
  XCLAW_SRC 72 73 CLAW_CLAMP MID VCCS_LIM_3_0_T1
  H2 37 MID V11 -1
  H3 35 MID V12 1
  C12 SW_OL MID 100P
  R32 74 SW_OL R_NOISELESS 100
  R31 74 MID R_NOISELESS 1
  XOL_SENSE MID 74 36 34 OL_SENSE_0_T1
  S1 23 24 SW_OL MID S_VSWITCH_7
  H1 75 MID V4 1K
  S7 VEE OUT VEE OUT S_VSWITCH_8
  S6 OUT VCC OUT VCC S_VSWITCH_9
  R11 MID 76 R_NOISELESS 1T
  R18 76 VOUT_S R_NOISELESS 100
  C7 VOUT_S MID 1P
  E5 76 MID OUT MID 1
  C13 VIMON MID 1N
  R33 75 VIMON R_NOISELESS 100
  R10 MID 75 R_NOISELESS 1T
  R47 77 VCLP R_NOISELESS 100
  C24 VCLP MID 100P
  E4 77 MID CL_CLAMP MID 1
  R46 MID CL_CLAMP R_NOISELESS 1K
  G9 CL_CLAMP MID CLAW_CLAMP MID -1M
  R45 MID CLAW_CLAMP R_NOISELESS 1K
  G8 CLAW_CLAMP MID 42 MID -1M
  R43 MID VSENSE R_NOISELESS 1K
  G15 VSENSE MID CLAMP MID -1M
  C4 44 MID 1F
  R9 44 78 R_NOISELESS 1M
  R7 MID 79 R_NOISELESS 1T
  R6 80 MID R_NOISELESS 1T
  R8 MID 78 R_NOISELESS 1
  XVCM_CLAMP 81 MID 78 MID 80 79 VCCS_EXT_LIM_0_T1
  E1 MID 0 82 0 1
  R89 VEE_B 0 R_NOISELESS 1
  R5 83 VEE_B R_NOISELESS 1M
  C3 83 0 1F
  R60 82 83 R_NOISELESS 1MEG
  C1 82 0 100e-9
  R3 82 0 R_NOISELESS 1T
  R59 84 82 R_NOISELESS 1MEG
  C2 84 0 1F
  R4 VCC_B 84 R_NOISELESS 1M
  R88 VCC_B 0 R_NOISELESS 1
  G17 VEE_B 0 VEE 0 -1
  G16 VCC_B 0 VCC 0 -1
  R_PSR 85 81 R_NOISELESS 1K
  G_PSR 81 85 48 46 -1M
  R2 45 ESDn R_NOISELESS 1M
  R1 85 86 R_NOISELESS 1M
  R_CMR 21 86 R_NOISELESS 1K
  G_CMR 86 21 50 MID -1M
  C_CMn ESDn MID 5P
  C_CMp MID ESDp 5P
  R53 ESDn MID R_NOISELESS 1T
  R52 MID ESDp R_NOISELESS 1T
  R35 IN- ESDn R_NOISELESS 10M
  R34 IN+ ESDp R_NOISELESS 10M
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_9 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.ENDS TLV9001

*
.SUBCKT VOS_SRC_0_T1  V+ V- REF+ REF-
E1 V+ 1 TABLE {(V(REF+, V-))} =
+(0, 0.8E-3)
+(1, 0.8E-3)
+(1.3, 0)
+(5.5, 0)
E2 1 V- TABLE {(V(V-, REF-))}=
+(-0.7, -2E-4)
+(-0.5, -2E-4)
+(-0.4, 0)
+(5.5, 0)
.ENDS VOS_SRC_0_T1 
*


.SUBCKT VCCS_LIM_ZO_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 100
.PARAM IPOS = 35E3
.PARAM INEG = -35E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW-_0_T1  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.0000, 0.00001)
+(14.0000, 0.000379)
+(28.0000, 0.000877)
+(37.3333, 0.001382)
+(37.8000, 0.00142)
+(38.7333, 0.001493)
+(39.6667, 0.001583)
+(40.6000, 0.001703)
+(41.5333, 0.00191)
+(42.0000, 0.00204)
.ENDS VCCS_LIM_CLAW-_0_T1 
*


.SUBCKT VNSE_0_T1  1 2
.PARAM FLW=10
.PARAM NLF=115
.PARAM NVR=27
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS
*


.SUBCKT FEMT_0_0_T1   1 2
.PARAM FLWF=0.001
.PARAM NLFF=23
.PARAM NVRF=23
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS
*


.SUBCKT VCCS_LIM_2_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 11.15E-3
.PARAM IPOS = 0.352
.PARAM INEG = -0.352
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_1_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIMIT_IQ_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
*


.SUBCKT CLAMP_AMP_LO_0_T1  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT CLAMP_AMP_HI_0_T1  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
*


.SUBCKT VCCS_LIM_GR_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.7
.PARAM INEG = -0.7
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_4_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.8
.PARAM INEG = -0.8
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT VCCS_LIM_CLAW+_0_T1  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {ABS(V(VC+,VC-))} =
+(00.00, 0.000010)
+(13.67, 0.0003467)
+(27.33, 0.0007994)
+(36.44, 0.001309)
+(36.90, 0.001351)
+(37.81, 0.001455)
+(38.72, 0.001600)
+(39.63, 0.001812)
+(40.54, 0.002117)
+(41.00, 0.002292)
.ENDS VCCS_LIM_CLAW+_0_T1 
*


.SUBCKT VCCS_LIM_3_0_T1  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.400
.PARAM INEG = -0.400
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
*


.SUBCKT OL_SENSE_0_T1  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
*


.SUBCKT VCCS_EXT_LIM_0_T1  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
*
