* ===========================================================================
*  gyrator.lib -- models for the cavity-board resonance emulator
*
*  Contains only the parametrised opamp macromodel and its two wrappers.
*  The gyrator itself is built from ordinary R and C in the netlists, which
*  is the whole point -- there is no inductor model anywhere in this package.
*
*  The macromodel is the same one used by the string front-end simulation;
*  its noise shaping is irrelevant here (this stage sees ~400 mV of signal)
*  but GBW, AOL, the second pole and the output clamp all matter.
* ===========================================================================

* ---------------------------------------------------------------------------
*  Generic single-supply opamp macromodel, parametrised.
*
*    EN   white input voltage noise density, V/rtHz
*    FC   1/f corner, Hz  (density follows EN*sqrt(1+FC/f))
*    GBW  gain-bandwidth product, Hz
*    AOL  DC open-loop gain, V/V
*    IQ   quiescent current, A
*    FP2  second pole, Hz
*    RO   open-loop output resistance, ohm
*
*  NOISE IS MODELLED AND IS THE POINT OF THIS SUBCIRCUIT.  Two noiseless
*  E sources in series with the + input inject:
*    - white noise from a resistor of EN^2/4kT ohms,
*    - a 1/f term shaped by a five-section pole/zero ladder (poles at
*      0.03/0.3/3/30/300 Hz, zeros a half-decade up) which produces a clean
*      -10 dB/decade slope.
*  The combination tracks EN*sqrt(1+FC/f) to within +/-0.4 dB from 0.1 Hz to
*  100 kHz.  Ladder node impedances are kept low so the ladder's own thermal
*  noise stays 20 dB under the intended floor.  These nodes carry no signal.
* ---------------------------------------------------------------------------
.subckt OPAMP P N VCC VEE OUT
+ PARAMS: EN=27n FC=150 GBW=1meg AOL=707946 IQ=60u FP2=2.5meg RO=200 CIN=4p

Rnw   nw   0    {EN*EN/1.6577e-20}
Rnf   nf   0    {EN*EN/1.6577e-20}
Ef0   l0   0    nf 0  {7.648*sqrt(FC)}
R1a   l0   a1   215
R2a   a1   a1c  100
Ca    a1c  0    16.84m
Ef1   b0   0    a1 0  1
R1b   b0   b1   215
R2b   b1   b1c  100
Cb    b1c  0    1.684m
Ef2   c0   0    b1 0  1
R1c   c0   c1   215
R2c   c1   c1c  100
Cc    c1c  0    168.4u
Ef3   d0   0    c1 0  1
R1d   d0   d1   215
R2d   d1   d1c  100
Cd    d1c  0    16.84u
Ef4   e0   0    d1 0  1
R1e   e0   e1   215
R2e   e1   e1c  100
Ce    e1c  0    1.684u

Enw   px   P    nw 0  1
Enf   pp   px   e1 0  1

Cinp  pp   0    {CIN}
Cinn  N    0    {CIN}
Cind  pp   N    {CIN/2}

Gm    0    g1   pp N   100u
Rg1   g1   0    {AOL/100u}
Cg1   g1   0    {100u/(6.283185*GBW)}
Eb2   g2a  0    g1 0   1
Rp2   g2a  g2   1k
Cp2   g2   0    {1/(6.283185*1k*FP2)}

Bo    no   0    V = min( max( V(g2), V(VEE)+0.015 ), V(VCC)-0.015 )
Rout  no   OUT  {RO}
Iq    VCC  VEE  {IQ}
.ends OPAMP

* --- TLV9001: 30 nV/rtHz at 1 kHz, 4.7 uVpp 0.1-10 Hz, 1 MHz, 60 uA -------
.subckt TLV9001 P N VCC VEE OUT
X1 P N VCC VEE OUT OPAMP PARAMS: EN=27n FC=150 GBW=1meg AOL=707946 IQ=60u
+ FP2=2.5meg RO=200 CIN=4p
.ends TLV9001

* --- OPA376: 7.5 nV/rtHz at 1 kHz, 0.8 uVpp 0.1-10 Hz, 5.5 MHz, 760 uA ----
.subckt OPA376 P N VCC VEE OUT
X1 P N VCC VEE OUT OPAMP PARAMS: EN=7.5n FC=55 GBW=5.5meg AOL=5.01e6 IQ=760u
+ FP2=14meg RO=60 CIN=5p
.ends OPA376

* ---------------------------------------------------------------------------
*  TLV9004 is the quad version of the TLV9001 die -- identical per-section
*  behaviour, so the TLV9001 subcircuit above is the correct model for a
*  section of the quad actually fitted on the cavity board.
* ---------------------------------------------------------------------------
.subckt TLV9004 P N VCC VEE OUT
X1 P N VCC VEE OUT TLV9001
.ends TLV9004
